US07968570B2
A mixture of 4-cyano-benzyl amine (0.218 g, 1.3 mmol), 2-bromomethyl-4-fluoro-6-iodo-benzoic acid methyl ester (0.374 g, 1.0 mmol), and K2CO3 (0.277 g, 2 mmol) in toluene (4 mL) was heated with stirring at 100° C. for 2 h. The resulting mixture was filtered and concentrated. Silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-fluoro-7-iodo-2-(4-cyano-benzyl)-2,3-dihydro-isoindol-1-one (0.160 g, 41%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.19 (s, 2H), 4.83 (s, 2H), 7.13 (d, 1H), 7.42 (d, 2H), 7.64 (m, 3H). GC-MS: m/z 392 (M)4.

reactant | 4-cyano-benzyl amine | 1.3 mmol, 0.218 g | C(#N)C1=CC=C(CN)C=C1 | C8H8N2
reactant | 2-bromomethyl-4-fluoro-6-iodo-benzoic acid methyl ester | 1.0 mmol, 0.374 g | COC(C1=C(C=C(C=C1I)F)CBr)=O | C9H7BrFIO2
reactant | K2CO3 | 2 mmol, 0.277 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 5-fluoro-7-iodo-2-(4-cyano-benzyl)-2,3-dihydro-isoindol-1-one | 0.160 g, 41% | FC=1C=C2CN(C(C2=C(C1)I)=O)CC1=CC=C(C=C1)C#N | C16H10FIN2O
